US07449466B2
Production Example 9 was repeated except that 5-bromo-2-methoxytoluene and 1-(2-phenethyl)piperazine were replaced with 4-bromo-2,5-difluoroanisole (446 mg) and 4-(3-phenylpropyl)-piperidine (1.220 g), respectively. The resulting crude product was purified on silica gel column chromatography (eluent, hexane: ethyl acetate=8:1) to provide 1-(2,5-difluoro-4-methoxyphenyl)-4-(3-phenylpropyl)piperidine (233 mg).

reactant | 5-bromo-2-methoxytoluene | BrC=1C=CC(=C(C1)C)OC | C8H9BrO
reactant | 4-bromo-2,5-difluoroanisole | 446 mg | BrC1=CC(=C(C=C1F)OC)F | C7H5BrF2O
reactant | 4-(3-phenylpropyl)-piperidine | 1.220 g | C1(=CC=CC=C1)CCCC1CCNCC1 | C14H21N
product | 1-(2,5-difluoro-4-methoxyphenyl)-4-(3-phenylpropyl)piperidine | 233 mg | FC1=C(C=C(C(=C1)OC)F)N1CCC(CC1)CCCC1=CC=CC=C1 | C21H25F2NO
